US05298492
In an ice-water bath, to 2(S),3-diamino-propionic acid (32 g) in water (1000 mL) add, with stirring, concurrently solutions of benzyl chloroformate (76 mL) in toluene (20 mL) and 4N NaOH (133 mL) over 30 min. Stir at 20°-25° C. for 45 min and then add additional benzyl chloroformate (34 mL) in toluene (10 mL) and 4N NaOH (61 mL) concurrently over 10 min. Stir the mixture at ambient temperature for 2 hr. Add diethyl ether (Et2O) (200 mL) and stir for 10 min. Filter and was the solid with Et2O (200 mL). Extract the aqueous solution with Et2O. Combine the aqueous solution with the solid and add concentrated HCl to pH 1-2. Extract the aqueous solution with EtOAc (250 mL twice). Dry the EtOAc extract (MgSO4) then concentrate in vacuo to give 2(S),3-bis-(benzyloxycarbonylamino)propionic acid, [α]23.6D =-13.7° (MeOH).

reactant | 2(S),3-diamino-propionic acid | 32 g | N[C@H](C(=O)O)CN | C3H8N2O2
reactant | benzyl chloroformate | 76 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | benzyl chloroformate | 34 mL | ClC(=O)OCC1=CC=CC=C1 | C8H7ClO2
reactant | diethyl ether | 200 mL | C(C)OCC | C4H10O
reactant | water | 1000 mL | O | H2O
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 4N, 133 mL | [OH-].[Na+]
solvent | toluene | 10 mL | C1(=CC=CC=C1)C | C7H8
solvent | NaOH | 4N, 61 mL | [OH-].[Na+]
product | 2(S),3-bis-(benzyloxycarbonylamino)propionic acid | C(C1=CC=CC=C1)OC(=O)N[C@H](C(=O)O)CNC(=O)OCC1=CC=CC=C1 | C19H20N2O6
